US08278317B2
tert-butyl [4-(diisopropylamino)-4-oxo-2-phenyl-3-pyridin-3-ylbutyl]carbamate
A suspension of 5-(diisopropylamino)-5-oxo-3-phenyl-4-pyridin-3-ylpentanoic acid (5.87 g, 15.93 mmol) and powdered molecular sieves (4 A) in t-BuOH (200 mL) was stirred at room temperature for 10 min under argon. To this mixture was then added DPPA (4.12 mL, 19.1 mmol) followed by Et3N (2.66 mL, 19.1 mmol), and the reaction mixture was heated at reflux temperature. After 25 h, it was cooled down to rt, filtered through a pad of celite (washing with CH2Cl2). The combined filtrate and washings were concentrated. The residue was partitioned between CH2Cl2 and saturated aqueous NaHCO3. The aqueous layer was extracted with CH2Cl2 (3×). The combined organic layers were dried over anhydrous Na2SO4 and concentrated. Purification by flash chromatography using a linear gradient of 0% to 5% MeOH—NH4OH (90:10 v/v) in CH2Cl2 gave a pale yellow solid.

reactant | 5-(diisopropylamino)-5-oxo-3-phenyl-4-pyridin-3-ylpentanoic acid | 15.93 mmol, 5.87 g | C(C)(C)N(C(C(C(CC(=O)O)C1=CC=CC=C1)C=1C=NC=CC1)=O)C(C)C | C22H28N2O3
reactant | DPPA | 19.1 mmol, 4.12 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 19.1 mmol, 2.66 mL | CCN(CC)CC | C6H15N
reactant | t-BuOH | 200 mL | CC(C)(C)O | C4H10O
product | tert-butyl [4-(diisopropylamino)-4-oxo-2-phenyl-3-pyridin-3-ylbutyl]carbamate | C(C)(C)N(C(C(C(CNC(OC(C)(C)C)=O)C1=CC=CC=C1)C=1C=NC=CC1)=O)C(C)C | C26H37N3O3
